US07560571B2
To 0.03 g (0.127 mmol) of 4-chloro-3-(4-aminophenyl)-1H-pyrrole-2-carboxamide dissolved in 2.7 cm3 of tetrahydrofuran is added, at a temperature in the region of 20° C. under an argon atmosphere, 0.019 cm3 (0.134 mmol) of 2-fluoro-5-trifluoromethylphenyl isocyanate. After stirring for 2 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue, which is recrystallized from 4 cm3 of acetonitrile. After filtering through a No. 3 sinter funnel, the solid is washed with 2 cm3 of acetonitrile and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 45° C. for 2 hours to give 0.037 g of 4-chloro-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-2-carboxamide in the form of a white solid; 1H NMR (400 MHz, DMSO d6, δ in ppm): 5.83 (broad m, 1H); 7.08 (s, 1H); 7.18 (broad m, 1H); 7.28 (d, J=8.5 Hz, 2H); 7.38 (m, 1H); 7.50 (partially masked m, 1H); 7.55 (d, J=8.5 Hz, 2H); 8.62 (dd, J=2.0 and 7.5 Hz, 1H); 9.04 (broad s, 1H); 9.39 (broad s, 1H); 11.8 (broad s, 1H); ES+: m/z=441: [M+H]+; ES−: m/z=439: [M−H]−.

reactant | 4-chloro-3-(4-aminophenyl)-1H-pyrrole-2-carboxamide | 0.127 mmol, 0.03 g | ClC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)N | C11H10ClN3O
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.134 mmol, 0.019 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
solvent | tetrahydrofuran | 2.7 cm3 | O1CCCC1 | C4H8O
product | 4-chloro-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-2-carboxamide | 0.037 g | ClC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C19H13ClF4N4O2
